US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((5-(trifluoromethyl)-2-furanyl)methyl)-1,3-oxazolidine-2-one (1.60 g, 4.86 mmol) in acetonitrile (15 ml) were added di-t-butyl dicarbonate (1.27 g, 5.83 mmol) and dimethylaminopyridine (60 mg, 0.49 mmol) and the mixture was stirred at room temperature for 30 min. The reaction solution was concentrated, diluted with water (30 ml) and extracted with ethyl acetate (30 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from ethyl acetate-hexane to give 1,1-dimethylethyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-((5-(trifluoromethyl)-2-furanyl)methyl)-1,3-oxazolidine-3-carboxylate (1.99 g, 95%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((5-(trifluoromethyl)-2-furanyl)methyl)-1,3-oxazolidine-2-one | 4.86 mmol, 1.60 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC=1OC(=CC1)C(F)(F)F | C15H11F4NO3
reactant | di-t-butyl dicarbonate | 5.83 mmol, 1.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.49 mmol, 60 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1,1-dimethylethyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-((5-(trifluoromethyl)-2-furanyl)methyl)-1,3-oxazolidine-3-carboxylate | 1.99 g, 95% | FC1=CC=C(C=C1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC=1OC(=CC1)C(F)(F)F | C20H19F4NO5
